US07939526B2
1,8-Diazabicyclo[5.4.0]undec-7-ene (0.10 mL, 0.74 mmol) followed by methyl vinyl sulfone (1.60 g, 14.8 mmol) were added to a stirred solution of 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol (2.30 g, 7.39 mmol) in tetrahydrofuran (30 mL). The reaction mixture was stirred at room temperature for 1 hour and a small amount of sodium hydride (60% dispersion in mineral oil) was added. Water (50 mL) was added and the mixture was extracted with ethyl acetate (3×50 mL). The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford an oil that was purified by flash chromatography (silica gel, eluted with 5% methanol in dichloromethane) to provide 2.0 g of 2-(ethoxymethyl)-1-({1-[2-(methylsulfonyl)ethoxy]cyclobutyl}methyl)-1H-imidazo[4,5-c]quinoline as an oil.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 0.74 mmol, 0.10 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl vinyl sulfone | 14.8 mmol, 1.60 g | C(=C)S(=O)(=O)C | C3H6O2S
reactant | 1-{[2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol | 7.39 mmol, 2.30 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCC1)O | C18H21N3O2
reactant | sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | Water | 50 mL | O | H2O
product | 2-(ethoxymethyl)-1-({1-[2-(methylsulfonyl)ethoxy]cyclobutyl}methyl)-1H-imidazo[4,5-c]quinoline | 2.0 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1(CCC1)OCCS(=O)(=O)C | C21H27N3O4S
